US05990116
U) Diethyl {4-[2-(2,5-dimethoxyphenyl)ethyl]anilino}methylene-malonate
The mixture of 820 mg of 4-[(2,5-dimethoxyphenyl)ethyl]aniline and 690 mg of diethyl ethoxymethylene-malonate is heated to 95° for 2 hours. On cooling the product crystallises and is used without further purification.

reactant | 4-[(2,5-dimethoxyphenyl)ethyl]aniline | 820 mg | COC1=C(C=C(C=C1)OC)CCC1=CC=C(N)C=C1 | C16H19NO2
reactant | diethyl ethoxymethylene-malonate | 690 mg | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | Diethyl {4-[2-(2,5-dimethoxyphenyl)ethyl]anilino}methylene-malonate | COC1=C(C=C(C=C1)OC)CCC1=CC=C(NC=C(C(=O)OCC)C(=O)OCC)C=C1 | C24H29NO6
